### PR TITLE
chore: adjust the constants in the blueprint to the formalization

### PR DESCRIPTION
**Pull request by sgouezel**
Also optimize a tiny bit one argument, giving very slightly better constants in the end.

And fix the hyperlinks in the pdf file of the blueprint.

### CODE REVIEW

File: Carleson/ForestOperator/Forests.lean [hunk 1]
```diff
@@ -74,9 +74,10 @@ lemma estimate_C7_4_6 {a : ℕ} (n : ℕ) (ha : 4 ≤ a) :
       · convert ih using 1
         ring
 
-/-- The constant used in `correlation_separated_trees`. -/
+/-- The constant used in `correlation_separated_trees`.
+Has value `2 ^ (512 * a ^ 3 - 4 * n)` in the blueprint. -/
 irreducible_def C7_4_4 (a n : ℕ) : ℝ≥0 :=
-    2 ^ ((4 * 𝕔 + 16 + 3 * (𝕔 / 4)) * a ^ 3) * 2 ^ (-(4 * n : ℝ))
+    2 ^ ((4 * 𝕔 + 12 + 4 * (𝕔 / 4)) * a ^ 3) * 2 ^ (-(4 * n : ℝ))
```
Comment (grunweg) [inline Carleson/ForestOperator/Forests.lean:80]: You could simplify this further, if you like.

Comment (sgouezel) [reply Carleson/ForestOperator/Forests.lean:80]: I don't see how. Note that c is a natural number, so 4 * c/4 is not c. In particular for c = 7, then 4 * c/4 is 4, so definitely better than 7.

Comment (grunweg) [reply Carleson/ForestOperator/Forests.lean:80]: Right, good point.

File: Carleson/ForestOperator/RemainingTiles.lean [hunk 2]
```diff
@@ -807,7 +807,8 @@ lemma cntp_approxOnCube_eq (hu₁ : u₁ ∈ t) :
       rw [Finset.mem_filter_univ, 𝓙₆, mem_inter_iff, mem_Iic] at mp
       rw [indicator_of_mem (mp.2.1 my)]
 
-/-- The constant used in `correlation_near_tree_parts`. -/
+/-- The constant used in `correlation_near_tree_parts`.
+Has value `2 ^ (232 * a ^ 3 - 25/(101a) * Z n κ)` in the blueprint. -/
```
Comment (grunweg) [inline Carleson/ForestOperator/RemainingTiles.lean]: Isn't there a factor of `* 2 ^ (21 * a + 5)` missing?

**Review by grunweg — COMMENTED** [review]
I found one small mistake already; taking a look at the last big file now.

File: blueprint/src/preamble/common.tex [hunk 3]
```diff
@@ -31,10 +30,13 @@
 \newtheorem{example}[theorem]{Example}
 \newtheorem{examples}[theorem]{Examples}
 \numberwithin{section}{chapter}
-\numberwithin{subsection}{section}
-\numberwithin{subsubsection}{subsection}
+%\numberwithin{subsection}{section}
```
Comment (grunweg) [inline blueprint/src/preamble/common.tex:33]: Can you elaborate about this change?

File: blueprint/src/preamble/common.tex [hunk 4]
```diff
@@ -31,10 +30,13 @@
...
+%\numberwithin{subsubsection}{subsection}
 \numberwithin{equation}{section}
 
+\usepackage[hidelinks, colorlinks=false, hypertexnames=false]{hyperref}
```
Comment (grunweg) [inline blueprint/src/preamble/common.tex:37]: And this one?

**Review by grunweg — COMMENTED** [review]
I checked the blueprint changes until approximately line 5000, and only spot-checked afterwards. Looks good to me. Thanks for doing all of this!

File: blueprint/src/preamble/common.tex (hunk 3 above)
Comment (sgouezel) [reply blueprint/src/preamble/common.tex:33]: Yes. It's just useless, subsections are already numbered within sections by default.

File: blueprint/src/preamble/common.tex (hunk 4 above)
Comment (sgouezel) [reply blueprint/src/preamble/common.tex:37]: This fixes the hyperlinks. In the current pdf blueprint, most hyperlinks are broken (try it!), because inner names by hyperref do not include the chapter number. My change tells hyperref to use another strategy to resolve hyperlinks, which works even when there are chapters.

File: Carleson/ForestOperator/RemainingTiles.lean (hunk 2 above)
Comment (sgouezel) [reply Carleson/ForestOperator/RemainingTiles.lean]: Good catch, thanks! Fixed.
